US05192779
A solution of 1-chloroethyl chloroformate (0.53 ml) in methylene chloride (5 ml) was added dropwise to a solution of N-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)methyl-2-cyclohexyl-2-hydroxy-2-phenylacetamide (1.50 g) in methylene chloride (25 ml) below 7° C. After being refluxed for 1 hour, the reaction mixture was evaporated in vacuo. To the residue was added methanol (20 ml) and the mixture was refluxed for 1.5 hours. The reaction mixture was evaporated in vacuo, and to the residue was added 1N aqueous solution of sodium hydroxide. The mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of 2-propanol and ethanol to give N-(1,2,3,6-tetrahydropyridin-4-yl)methyl-2-cyclohexyl-2-hydroxy-2-phenylacetamide (0.19 g).

reactant | 1-chloroethyl chloroformate | 0.53 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | N-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)methyl-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 1.50 g | C(C1=CC=CC=C1)N1CCC(=CC1)CNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O | C27H34N2O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(1,2,3,6-tetrahydropyridin-4-yl)methyl-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 0.19 g | N1CCC(=CC1)CNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O | C20H28N2O2
